US06441197B1
(d) 4-Amino-5-nitro-2′,7′-difluoro-3′,6′dihydroxy-spiro[isobenzofuran-1(3H),9′-[9H]xanthen]-3-one (4: 3-amino-4-nitrodifluorofluorescein)
3-Acetamido-4-nitrophthalic anhydride (1.3 g, 5.0 mmol) and 4fluororesorcinol (1.3 g, 10 mmol) were added to methanesulfonic acid (10 ml), and the mixture was stirred at 80° C. under an argon atmosphere for 60 hours. The reaction mixture was added with water (120 ml) and refluxed for 2 hours. The reaction mixture was adjusted to pH 2, and precipitates were collected by filtration. The obtained product was dried and purified by silica gel chromatography (3% methanol/97% dichloromethane, v/v) to obtain the title compound (1.3 g, 61%).

reactant | 3-Acetamido-4-nitrophthalic anhydride | 5.0 mmol, 1.3 g | C(C)(=O)NC1=C2C(C(=O)OC2=O)=CC=C1[N+](=O)[O-] | C10H6N2O6
reactant | 4fluororesorcinol | 10 mmol, 1.3 g | FC1=C(C=C(O)C=C1)O | C6H5FO2
reactant | methanesulfonic acid | 10 ml | CS(=O)(=O)O | CH4O3S
solvent | water | 120 ml | O | H2O
product | 4-Amino-5-nitro-2′,7′-difluoro-3′,6′dihydroxy-spiro[isobenzofuran-1(3H),9′-[9H]xanthen]-3-one | 1.3 g, 61% | NC1=C2C(OC3(C4=CC(=C(C=C4OC=4C=C(C(=CC34)F)O)O)F)C2=CC=C1[N+](=O)[O-])=O | C20H10F2N2O7
